US05017724
A mixture of 194 g of 2,4-xylenol and 233 g of cyclohexylcarbonyl chloride was stirred at 110° C. for 1 hour and then thereto was gradually added 318 g of anhydrous aluminum chloride, followed by stirring for further 1 hour at 110° C. The reaction mixture was added to 2 liters of ice water and the organic layer was extracted with 2 liters of chloroform. The extract was washed successively with water and then with a saturated aqueous sodium chloride solution and thereafter dried with anhydrous magnesium sulfate. The chloroform was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: n-hexane) to obtain 256.2 g of cyclohexyl 3,5-dimethyl-2-hydroxyphenyl ketone. Brown oily substance.

reactant | 2,4-xylenol | 194 g | C=1(C(=CC(=CC1)C)C)O | C8H10O
reactant | cyclohexylcarbonyl chloride | 233 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | aluminum chloride | 318 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | cyclohexyl 3,5-dimethyl-2-hydroxyphenyl ketone | 256.2 g | CC=1C(=C(C=C(C1)C)C(=O)C1CCCCC1)O | C15H20O2
